US06660744B1
cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.226 mmol), 4-(anilinocarbonyl)phenylboronic acid (60 mg, 0.249 mmol), palladium tetrakistriphenyphosphine(16 mg, 0.014 mmol) and sodium carbonate (58 mg, 0.544 mmol) were mixed with ethylene glycol dimethyl ether (3 mL) and water (1.5 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was by preparative thin layer column chromatography using dichloromethane/methanol/ammonium hydroxide (95:5:05) as mobile phase to give cis-N1-phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}benzamide (32 mg, 27%). 1H NMR (DMSO-d6) δ 1.60 (m, 4H), 1.73 (m, 2H), 2.08 (m, 2H), 2.19 (s, 3H), 2.28 (m, 11H), 4.84 (m, 1H), 7.12 (m, 1H), 7.38 (m, 2H), 7.81 (m, 4H), 8.16 (d, J=8.30 Hz, 2H), 8.27 (s, 1H), 10.34 (s, 1H). LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.): MH+ =511.2, Rt=2.41 min.

reactant | cis-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.226 mmol, 100 mg | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 4-(anilinocarbonyl)phenylboronic acid | 0.249 mmol, 60 mg | N(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)B(O)O | C13H12BNO3
reactant | sodium carbonate | 0.544 mmol, 58 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | cis-N1-phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}benzamide | 32 mg, 27% | C1(=CC=CC=C1)NC(C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)=O | C29H34N8O
